US07858796B2
(21) 3-{1-[(2-chloroethyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide
To a solution of 5-phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide (65 mg, 0.2 mmol) in CH2Cl2 (5 mL) at 0° C., triethylamine (0.11 mL, 0.8 mmol) and 2-chloroethanesulfonyl chloride (0.042 mL, 0.4 mmol) were added. After stirring at 0° C. for 30 min. the reaction mixture was partitioned between CH2Cl2 and water. The organic layer was separated and the aqueous layer was extracted with CH2Cl2 (2×). The combined organic phase was dried over magnesium sulfate and the solvent removed under reduced pressure. The resulting residue was purified by filtration through an SPE Cartridge (Aminopropyl NH2, 500 mg/6 mL) to give the desired product (26 mg, 32%).

reactant | 5-phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide | 0.2 mmol, 65 mg | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H21N3O
reactant | TEA | 0.8 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethanesulfonyl chloride | 0.4 mmol, 0.042 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{1-[(2-chloroethyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 26 mg, 32% | ClCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C22H24ClN3O3S
